US06939887B2
Synthesis of ethyl 4-bromo-2-nitro-6-(trifluoromethyl)phenyl(2,4-dimethoxybenzyl)carbamate
To a solution of ethyl 4-bromo-2-nitro-6-(trifluoromethyl)phenylcarbamate (1049.3 mg), 2,4-dimethoxybenzyl alcohol (1.7217 g) and triphenylphosphine (3.0183 g) in tetrahydrofuran (15 ml) was added diethyl azodicarboxylate (2.2505 g). The mixture was stirred at room temperature for 8 hours, and then concentrated in vacuo. The resultant residue was purified by silica gel column (110 g, hexane:ethyl acetate=20:1→10:1) to give the title compound (796.8 mg, 53%) and recovered ethyl 4-bromo-2-nitro-6-(trifluoromethyl)phenylcarbamate (489.2 mg, 47%).

reactant | ethyl 4-bromo-2-nitro-6-(trifluoromethyl)phenylcarbamate | 1049.3 mg | BrC1=CC(=C(C(=C1)C(F)(F)F)NC(OCC)=O)[N+](=O)[O-] | C10H8BrF3N2O4
reactant | 2,4-dimethoxybenzyl alcohol | 1.7217 g | COC1=C(CO)C=CC(=C1)OC | C9H12O3
reactant | triphenylphosphine | 3.0183 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 2.2505 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | ethyl 4-bromo-2-nitro-6-(trifluoromethyl)phenyl(2,4-dimethoxybenzyl)carbamate | 796.8 mg, 53% | BrC1=CC(=C(C(=C1)C(F)(F)F)N(C(OCC)=O)CC1=C(C=C(C=C1)OC)OC)[N+](=O)[O-] | C19H18BrF3N2O6
